US08497281B2
5-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-1,3-dihydro-indol-2-one
The title compound is prepared from 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 25% of theory; LC (method 4): tR=1.90 min; Mass spectrum (ESI+): m/z=347 [M+H]+.

reactant | 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid | O=C1NC2=CC=C(C=C2C1)C(=O)O | C9H7NO3
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | 5-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-1,3-dihydro-indol-2-one | Yield: 25% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C=3C=C1CC(NC1=CC3)=O | C22H22N2O2
